US08030500B2
2-(5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl) acetonitrile
To a solution of 1-(3-(bromomethyl)-4-methoxy-5-methylphenyl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine (185 mg, 0.36 mmol) in MeCN (5 mL) was added potassium cyanide (69.8 mg, 1.07 mmol) and the reaction mixture was stirred at rt over night. The mixture was filtered and the filtrate was concentrated in vacuo and purified by preparative HPLC to give 23 mg (12%) of the title compound.

reactant | 1-(3-(bromomethyl)-4-methoxy-5-methylphenyl)-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-3-amine | 0.36 mmol, 185 mg | BrCC=1C=C(C=C(C1OC)C)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=CC=C1)C=1C=NC=NC1 | C27H22BrFN4O
reactant | potassium cyanide | 1.07 mmol, 69.8 mg | [C-]#N.[K+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 2-(5-(3-Amino-4-fluoro-1-(3-(pyrimidin-5-yl)phenyl)-1H-isoindol-1-yl)-2-methoxy-3-methylphenyl) acetonitrile | 23 mg, 12% | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=CC=C1)C=1C=NC=NC1)C=1C=C(C(=C(C1)CC#N)OC)C | C28H22FN5O
